US07858632B2
To a solution of methyl ether X (10.0 g, 60 mmol) in 50 ml THF at −78° C. was added n-butyllithium (36 ml, 90 mmol, 2.5 M in hexanes) was added drop-wise. After 1 h the solution was warmed to rt. After 1 h the solution was cooled to −78° C. and trimethyl borate (13.6 ml, 120 mmol) was added. The solution was warmed to rt. After 16 h the mixture was quenched by the addition of water and resulting mixture was acidified with AcOH and extracted with ethyl acetate. The combined organics were washed with saturated NaHCO3, dried with MgSO4, filtered and concentrated in vacuo. The resulting oil was azeotroped with toluene to afford 6-methoxy-2,3-dihydro-benzo[1,4]dioxin-5-yl-boronic acid (13.72 g, 98%) as an oil.

reactant | methyl ether | COC | C2H6O
reactant | n-butyllithium | 90 mmol, 2.5 M, 36 ml | C(CCC)[Li]
reactant | trimethyl borate | 120 mmol, 13.6 ml | B(OC)(OC)OC | C3H9BO3
reactant | AcOH | CC(=O)O | C2H4O2
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | 6-methoxy-2,3-dihydro-benzo[1,4]dioxin-5-yl-boronic acid | 13.72 g, 98% | COC1=C(C2=C(OCCO2)C=C1)B(O)O | C9H11BO5
